US07902200B2
2,4-dibromo-N-methyl-butanamide
2,4-Dibromobutanoyl chloride (CAS no. 82820-87-9) (16.9 g, 64 mmol) in DCM (20 mL) was added dropwise to a solution of methylamine (20 mL) in water (30 mL) and DCM (30 mL) at 10-15° C., then warmed to 30° C. and stirred for 30 minutes. The organic layer was separated and the aqueous layer re-extracted with DCM (2×10 mL), the combined organic layers were washed with brine (20 mL), dried (MgSO4) and evaporated to afford the product (16.3 g, 98%). 1H NMR δ (400 MHz, CDCl3) 2.35-2.45 (m, 1H), 2.57-2.67 (m, 1H), 2.81 (d, 3H), 3.44-3.54 (m, 2H), 4.46 (q, 1H), 6.34 (s, 1H).

reactant | 2,4-Dibromobutanoyl chloride | BrC(C(=O)Cl)CCBr | C4H5Br2ClO
reactant | methylamine | 20 mL | CN | CH5N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2,4-dibromo-N-methyl-butanamide | 16.3 g, 98% | BrC(C(=O)NC)CCBr | C5H9Br2NO
